US08975265B2
Step 3: 5-[4-(7-methoxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one
A mixture of crude 5-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one (2.5 g), 4-methoxypyrimidin-2-amine (1.26 g), triethylamine (0.84 mL) and ethanol (62 mL), under argon, was heated at 100° C. (bath temperature) for 6 hours. On cooling the reaction was concentrated and partitioned between EtOAc and water. The aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried and concentrated. Purification was achieved by chromatography on silica gel followed by preparative reverse phase HPLC to give the title compound.

reactant | 5-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one | 2.5 g | BrC(C(=O)C1=CC=C(C=C1)C12NC(OC(C1)C2)=O)C2=CC=CC=C2 | C19H16BrNO3
reactant | 4-methoxypyrimidin-2-amine | 1.26 g | COC1=NC(=NC=C1)N | C5H7N3O
reactant | triethylamine | 0.84 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 62 mL | C(C)O | C2H6O
product | 5-[4-(7-methoxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-2-oxa-4-aza-bicyclo[3.1.1]heptan-3-one | COC1=NC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C21NC(OC(C2)C1)=O)C1=CC=CC=C1 | C24H20N4O3
